US07459448B2
9-Chloro-2-(3,4-dimethoxy-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one
In a manner similar to method I (DMF and NaHCO3 were used in place of EtOH and K2CO3), 8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]-azepine-2,5-dione (v-j) and 1-(3,4-dimethoxyphenyl)guanidine were converted to I-2 (87%): HRMS Calcd. for C20H17ClN4O3: 397.1067, Found 397.109.

reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]-azepine-2,5-dione | ClC=1C=CC2=C(NC(CC(C2=O)=CN(C)C)=O)C1 | C13H13ClN2O2
reactant | 1-(3,4-dimethoxyphenyl)guanidine | COC=1C=C(C=CC1OC)NC(=N)N | C9H13N3O2
solvent | EtOH | CCO | C2H6O
solvent | DMF | CN(C)C=O | C3H7NO
product | 9-Chloro-2-(3,4-dimethoxy-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | ClC=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC(=C(C=C3)OC)OC)=O)C1 | C20H17ClN4O3
